US05556864
Following a procedure similar to that described in the first part of Preparation 3, the whole of the 3-(2-methoxyphenyl)propanal prepared as described above, 1.65 g of 2-benzyloxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 1) and 1.01 g of 1,8-diazabicyclo[5,4,0]undec-7-ene were reacted in 30 ml of acetonitrile. The crude product, extracted as described in Preparation 3, was purified by column chromatography through silica gel, using a 9:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.98 g of benzyl 2-[4-(2-methoxyphenyl)-1-butenyl]phenyl ether as a colorless oil.

reactant | 3-(2-methoxyphenyl)propanal | COC1=C(C=CC=C1)CCC=O | C10H12O2
reactant | 2-benzyloxybenzyltriphenylphosphonium chloride | 1.65 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 1.01 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | benzyl 2-[4-(2-methoxyphenyl)-1-butenyl]phenyl ether | 0.98 g | COC1=C(C=CC=C1)CCC=CC1=C(C=CC=C1)OCC1=CC=CC=C1 | C24H24O2
